US05244890
To a solution of 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid trifluoroacetate (syn isomer) in N,N-dimethylformamide (150 ml) was added 1-methyl-4-tert-butoxycarbonylpiperazine (30 g). After being stirred at room temperature for 30 minutes, the mixture was added dropwise to ethyl acetate (1.5 l). The resulting precipitate was collected by filtration, washed with ethyl acetate and diisopropyl ether. To a solution of the above precipitate in a mixture of methylene chloride (6e ml) and anisole (20 ml) was added dropwise trifluoroacetic acid (40 ml) under ice-cooling. The reaction mixture was stirred at room temperature for 2 hours and added to diisopropyl ether (1.5 l) under stirring. The resultant precipitate was collected by filtration and dissolved in aqueous sodium bicarbonate, and the solution was adjusted to pH 4.0 with hydrochloric acid and subjected to column chromatography on "Diaion HP-20" (Trademark:prepared by Mitsubishi Chemical Industries) with 5% aqueous isopropyl alcohol as an eluent. The eluate was lyophilized to give 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate (syn isomer) (12.00 g).

reactant | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-chloromethyl-3-cephem-4-carboxylic acid trifluoroacetate | FC(C(=O)O)(F)F.NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)O)C1=O)=NOC
reactant | 1-methyl-4-tert-butoxycarbonylpiperazine | 30 g | CN1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | ethyl acetate | 1.5 l | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 7β-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-methoxyiminoacetamido]-3-(1-methyl-1-piperazinio)methyl-3-cephem-4-carboxylate | 12.00 g | NC1=NC(=NS1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCNCC2)C)C(=O)[O-])C1=O)=NOC | C18H24N8O5S2
